US07893056B2
[(2R)-3-(2-{2-Chloro-5-fluoro-6-[(1,3-thiazol-4-ylmethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide (0.1133 g, 0.204 mmol) was dissolved in acetic acid (8 mL) and water (2 mL). This reaction mixture was left to stir overnight. The volatiles were evaporated, and the resulting residue was purified by RP-HPLC to provide [(2R)-3-(2-{2-chloro-5-fluoro-6-[(1,3-thiazol-4-ylmethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide (0.0497 g, 52%). LCMS: (M+H)+=472.1.

reactant | [(2R)-3-(2-{2-Chloro-5-fluoro-6-[(1,3-thiazol-4-ylmethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide | 0.204 mmol, 0.1133 g | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)OC1OCCCC1)CC1CCCC1)=O)F)NCC=1N=CSC1 | C23H31ClFN7O4S
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
solvent | water | 2 mL | O | H2O
product | [(2R)-3-(2-{2-chloro-5-fluoro-6-[(1,3-thiazol-4-ylmethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide | 0.0497 g, 52% | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)O)CC1CCCC1)=O)F)NCC=1N=CSC1 | C18H23ClFN7O3S
